US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-phenylbenzamide)
Prepared by a method analogous to that described in Example 1 from (R)-1-azabicyclo[2.2.2]oct-3-yl)(3-bromobenzamide) and phenylboronic acid, using tetrakis(triphenylphosphine)palladium(0) and sodium carbonate in a mixture of tetrahydrofuran, ethanol, and water. The compound was purified by flash chromatography on silica gel and eluted with 3%-10% 3.5N methanolic ammonia/chloroform mixtures. Evaporation of solvent gave the title compound as a colourless solid; MS (ES+) 307 (MH+).

reactant | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-bromobenzamide) | N12C[C@@H](C(CC1)CC2)NC(C2=CC(=CC=C2)Br)=O | C14H17BrN2O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-phenylbenzamide) | N12C[C@@H](C(CC1)CC2)NC(C2=CC(=CC=C2)C2=CC=CC=C2)=O | C20H22N2O
